US06838463B2
In 2 ml of N,N-dimethylformamide were dissolved 40 mg of 4-(2-butynyloxy)-6-(2,2,2-trifluoroethylamino)pyrimidine and 31 mg of ethyl iodide, to which 8 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 1 hour. Then, 6 ml of tetrahydrofuran was added, and the mixture was further stirred at room temperature for 4.5 hours. Then, ice water was added to the reaction mixture, from which the tetrahydrofuran was distilled out under reduced pressure. The residue was extracted with tert-butyl methyl ether. The organic layer was washed twice with an aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel thin layer chromatography to give 37 mg of 4-(2-butynyloxy)-6-(N-ethyl-N-2,2,2-trifluoroethylamino)pyrimidine (the present compound (115)).

reactant | 4-(2-butynyloxy)-6-(2,2,2-trifluoroethylamino)pyrimidine | 40 mg | C(C#CC)OC1=NC=NC(=C1)NCC(F)(F)F | C10H10F3N3O
reactant | ethyl iodide | 31 mg | C(C)I | C2H5I
reactant | sodium hydride | 8 mg | [H-].[Na+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(2-butynyloxy)-6-(N-ethyl-N-2,2,2-trifluoroethylamino)pyrimidine | 37 mg | C(C#CC)OC1=NC=NC(=C1)N(CC(F)(F)F)CC | C12H14F3N3O
